US07968720B2
N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-propionamide
Propionyl chloride (2.02 mL, 23.1 mmol) and DIPEA (14.4 mL, 84.0 mL) were added to a sol. of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine (6.00 g, 20.9 mmol) in CH2Cl2 (195 mL). The mixture was stirred for 15 min at rt, and more CH2Cl2 was added. The mixture was washed with aq. sat. NH4Cl (2×), with aq. 1M NaOH (1×) and with brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:9→3:2) yielded the title compound (5.08 g, 71%). LC-MS: tR=1.09 min; ES+: 383.41.

reactant | Propionyl chloride | 23.1 mmol, 2.02 mL | C(CC)(=O)Cl | C3H5ClO
reactant | DIPEA | 14.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzylamine | 20.9 mmol, 6.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CN)C=CC1Cl)(C)C | C14H24ClNOSi
solvent | CH2Cl2 | 195 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-propionamide | 5.08 g, 71% | C(C)(C)(C)[SiH2]OC(C=1C=C(CNC(CC)=O)C=CC1Cl)(C)C | C17H28ClNO2Si
